US06984653B2
(i) Production of ethyl 1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-1,2,3-triazole-4-carboxylate
Potassium carbonate (2.4 g) was added to a solution of 4-[[4-(4-iodobutyl)phenoxy]methyl]-2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazole (7.5 g) and ethyl 1H-1,2,3-triazole-4-carboxylate (2.1 g) in dimethylformamide (100 ml), and the mixture was stirred at 70° C. for 5 hr. After the reaction was completed, the reaction mixture was combined with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=3:1), and recrystallized from ethyl acetate-hexane to give the titled compound (1.85 g) as a colorless crystal powder.

reactant | Potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[[4-(4-iodobutyl)phenoxy]methyl]-2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazole | 7.5 g | ICCCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H21F3INO2
reactant | ethyl 1H-1,2,3-triazole-4-carboxylate | 2.1 g | N1N=NC(=C1)C(=O)OCC | C5H7N3O2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(4-{4-[(2-{(E)-2-[4-(trifluoromethyl)phenyl]ethenyl}-1,3-oxazol-4-yl)methoxy]phenyl}butyl)-1H-1,2,3-triazole-4-carboxylate | 1.85 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC(=C1)C(=O)OCC)(F)F | C28H27F3N4O4
